US07713996B2
A solution of 1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid [4-(N-hydroxycarbamimidoyl)-phenyl]-amide (254 mg, 0.51 mmol) in dimethylformamide (3.5 ml) was treated with pyridine (0.04 ml, 1 equiv.) and the mixture was cooled to 0° C. Chloroformic acid 2-ethylhexyl ester (98 mg, 0.51 mmol, 1 equiv.) was added dropwise. The reaction mixture was stirred at 0° C. for 30 min, then quenched with water. The slurry was extracted three times with ethyl acetate. The combined organic layers were dried with Na2SO4 and the solvent was evaporated. The crude compound was suspended in xylene and heated at reflux for 2 hours. After cooling to room temperature, the solid was filtered and dried under high vacuum, yielding 1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid [4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenyl]-amide as a white solid, 114 mg (43%). MS (ISP): m/e=525.2 (M−H), δH (300 MHz; d6-DMSO) 10.31 (1H, s), 7.55-7.80 (8H, m), 7.28 (1H, d), 7.16 (1H, d), 4.04 (2H, t), 3.60 (3H, s), 3.06 (2H, t).

reactant | 1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid [4-(N-hydroxycarbamimidoyl)-phenyl]-amide | 0.51 mmol, 254 mg | ONC(=N)C1=CC=C(C=C1)NC(=O)C1=CC=C2CCN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC | C23H21ClN4O5S
reactant | pyridine | 0.04 ml, 1 equiv. | N1=CC=CC=C1 | C5H5N
reactant | Chloroformic acid 2-ethylhexyl ester | 0.51 mmol, 98 mg, 1 equiv. | C(C)C(COC(=O)Cl)CCCC | C9H17ClO2
solvent | dimethylformamide | 3.5 ml | CN(C=O)C | C3H7NO
product | 1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid [4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenyl]-amide | O=C1NC(=NO1)C1=CC=C(C=C1)NC(=O)C1=CC=C2CCN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC | C24H19ClN4O6S
